US05753664
3,5-Dimethyl-2-[4-[4-(4-hydroxypiperidinocarbonyl)benzoyl]benzyl]thio-4(3H)-quinazolinone
To a solution of 2-[4-(4-carboxybenzoyl)benzyl]thio-3,5-dimethyl-4(3H)-quinazolinone (1.00 g, 2.26 mmol) in DMF (10.0 ml) was added DEPC (0.755 g, 4.63 mmol) and the mixture was stirred at room temperature for 10 minutes. Then, 4-hydroxypiperidine (0.522 g, 5.16 mmol) was added and the mixture was stirred at room temperature for 4 hours. The solvent was then distilled off and the residue was dissolved in ethyl acetate and washed with saturated aqueous NaCl solution. The organic layer was dried over MgSO4 and then concentrated under reduced pressure, and the residue was recrystallized from THF to provide colorless needles.

reactant | 2-[4-(4-carboxybenzoyl)benzyl]thio-3,5-dimethyl-4(3H)-quinazolinone | 2.26 mmol, 1.00 g | C(=O)(O)C1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C25H20N2O4S
reactant | DEPC | 4.63 mmol, 0.755 g | CCOC(=O)OC(=O)OCC | C6H10O5
reactant | 4-hydroxypiperidine | 5.16 mmol, 0.522 g | OC1CCNCC1 | C5H11NO
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(4-hydroxypiperidinocarbonyl)benzoyl]benzyl]thio-4(3H)-quinazolinone | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)C(=O)N1CCC(CC1)O)=O | C30H29N3O4S
